US08492378B2
3-[2-[5-(1H-benzotriazol-5-yl)-1,3,4-oxadiazol-2-yl]ethyl]benzonitrile
A mixture of 1H-benzotriazole-5-carbohydrazide (354 mg, 2.00 mmol), 3-(3-cyanophenyl)propionic acid (350 mg, 2.00 mmol) and phosphorus oxychloride (5 mL) was stirred at 100° C. for 4 hr. After cooling, the reaction mixture was poured into water and neutralized with sodium hydrogen carbonate, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate), and recrystallized from methanol/water to give the title compound (104 mg, yield 16%) as colorless crystals.

reactant | 1H-benzotriazole-5-carbohydrazide | 2.00 mmol, 354 mg | N1N=NC2=C1C=CC(=C2)C(=O)NN | C7H7N5O
reactant | 3-(3-cyanophenyl)propionic acid | 2.00 mmol, 350 mg | C(#N)C=1C=C(C=CC1)CCC(=O)O | C10H9NO2
reactant | phosphorus oxychloride | 5 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 3-[2-[5-(1H-benzotriazol-5-yl)-1,3,4-oxadiazol-2-yl]ethyl]benzonitrile | 104 mg, yield 16% | N1N=NC2=C1C=CC(=C2)C2=NN=C(O2)CCC=2C=C(C#N)C=CC2 | C17H12N6O
